US04470990
In the same manner but replacing 5,6,7,8-tetrahydro-7-(dipropylamino)-1-naphthalenol with an equivalent amount of 5,6,7,8-tetrahydro-7-(1-piperidinyl)-1-naphthalenol, 6,7,8,9-tetrahydro-8-(1-piperidinyl)-naphtho[1,2-b]furan is obtained.

reactant | 5,6,7,8-tetrahydro-7-(dipropylamino)-1-naphthalenol | C(CC)N(C1CCC=2C=CC=C(C2C1)O)CCC | C16H25NO
reactant | 5,6,7,8-tetrahydro-7-(1-piperidinyl)-1-naphthalenol | N1(CCCCC1)C1CCC=2C=CC=C(C2C1)O | C15H21NO
product | 6,7,8,9-tetrahydro-8-(1-piperidinyl)-naphtho[1,2-b]furan | N1(CCCCC1)C1CCC=2C=CC3=C(OC=C3)C2C1 | C17H21NO
